US04940712
4,6-Dimethyl-2-phenylpentylamino-5-(isobutyloxyformyl)oxypyrimidine
In a manner similar to that of the method of Example 2, the title compound was prepared from 0.5 g (1.8 mmol) of 4,6-dimethyl-5-hydroxy-2-phenylpentylaminopyrimidine and isobutylchoroformate (0.23 ml, 1.8 mmol) to afford 0.45 g of product. Mass spectrum m/e=385. NMR (CDCl3) delta: 7.27-7.16 (m, 5H): 5.00 (bs, 1H); 4.06 (d, 5 Hz, 2H); 3.00-3.60 (m, 2H); 2.61 (t, 4 Hz, 2H); 2.23 (s, 6H): 1.65-1.36 (m, 6H): 0.99 (d, 4 Hz, 6H). IR (CHCl3) 1760, 1580 cm-1. Anal. Calc'd for C22H31O3N3 : C, 68.54: H, 8.10: N, 10.90. Found: C, 68.14; H, 7.85; N, 10.69.

reactant | 4,6-dimethyl-5-hydroxy-2-phenylpentylaminopyrimidine | 1.8 mmol, 0.5 g | CC1=NC(=NC(=C1O)C)NCC(CCC)C1=CC=CC=C1 | C17H23N3O
reactant | isobutylchoroformate | 1.8 mmol, 0.23 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
product | 4,6-Dimethyl-2-phenylpentylamino-5-(isobutyloxyformyl)oxypyrimidine | CC1=NC(=NC(=C1OC(=O)OCC(C)C)C)NCC(CCC)C1=CC=CC=C1 | C22H31N3O3
